US05932571
Combine [1,4]diazepane (33.9 g, 340 mmol) and water (250 mL). Add methyl orange and adjust the pH using 3 M aqueous hydrochloric acid solution until the indicator turns red. Add dropwise, ethyl chloroformate (38 mL, 400 mmol) over about 2.5 hours while maintaining the pH using first aqueous sodium acetate and then aqueous sodium hydroxide solution. After the addition is complete adjust the pH to 8 using aqueous sodium hydroxide solution and extract three times with diethyl ether. Discard the organic extracts and saturate the aqueous layer with potassium carbonate. Extract three times with diethyl ether. Combine the organic layers from the second extraction, dry the over Na2SO4, filter, and evaporate in vacuo to give a 1-ethoxycarbonyl[1,4]diazepane. Combine 1-ethoxycarbonyl[1,4]diazepane (36.6 g, 212 mmol) and 2-chlorobenzimidazole (18.0 g, 106 mmol). Heat to 130° C. After 4 hours, cool to ambient temperature and add hot methanol to dissolve the reaction mixture. Partition the methanol solution between dichloromethane (700 mL) and a solution of sodium hydroxide (20 g) in water (500 mL). Separate the layers and extract the aqueous layer three times with dichloromethane. Combine the organic layers, extract with brine, dry over Na2SO4, filter, and evaporate in vacuo to give a solid. Triturate the solid with ethyl acetate (100 mL) and cool to 0° C. Collect solid by filtration and dry in vacuo to give 1-ethoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane.

reactant | 1-ethoxycarbonyl[1,4]diazepane | 212 mmol, 36.6 g | C(C)OC(=O)N1CCNCCC1 | C8H16N2O2
reactant | 2-chlorobenzimidazole | 106 mmol, 18.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
solvent | methanol | CO | CH4O
product | 1-ethoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C15H20N4O2
